US07670591B2
2-[2-(Dimethylamino)pyrimidin-5-yl]-1,3-benzoxazol-6-ol
The title compound was synthesized from 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyrimidin-2-amine according to the general procedure as described for 2-[6-(dimethylamino)pyridin-3-yl]-1,3-benzoxazol-5-ol to give 30.3 mg: 1H NMR δ ppm 9.85 (br. s, 1H) 8.97 (s, 2H) 7.51 (d, 1H) 7.05 (d, 1H) 6.82 (dd, 1H) 3.22 (s, 6 H); MS m/z 257 (M+H).

reactant | 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N,N-dimethylpyrimidin-2-amine | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)N(C)C)C=C1 | C14H14N4O2
reactant | 2-[6-(dimethylamino)pyridin-3-yl]-1,3-benzoxazol-5-ol | CN(C1=CC=C(C=N1)C=1OC2=C(N1)C=C(C=C2)O)C | C14H13N3O2
product | 2-[2-(Dimethylamino)pyrimidin-5-yl]-1,3-benzoxazol-6-ol | CN(C1=NC=C(C=N1)C=1OC2=C(N1)C=CC(=C2)O)C | C13H12N4O2
